US09403839B2
4,6-Dibromo-2-methylpyridin-3-ol (15.8 g, 59.4 mmol) was dissolved in THF (200 mL). The solution was cooled to −78° C. and n-BuLi (50 mL, 125 mmol, 2.5 M in hexane) was added drop-wise keeping the temperature below −78° C. The mixture was allowed to stir at that temperature for 2 h. The mixture was quenched with water (50 mL) and was neutralized with 2 N HCl. The aqueous mixture was extracted with dichloromethane (2×). The combined organic layers were dried (Na2SO4) and concentrated to give 6-bromo-2-methylpyridin-3-ol (10.5 g, 95%) as a yellow oil. 1H-NMR (300 MHz, DMSO) 2.29 (s, 3H), 7.08 (d, 1H), 7.26 (d, 1H), 10.08 (s, 1H).

reactant | 4,6-Dibromo-2-methylpyridin-3-ol | 59.4 mmol, 15.8 g | BrC1=C(C(=NC(=C1)Br)C)O | C6H5Br2NO
reactant | n-BuLi | 125 mmol, 2.5 M, 50 mL | [Li]CCCC
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 6-bromo-2-methylpyridin-3-ol | 10.5 g, 95% | BrC1=CC=C(C(=N1)C)O | C6H6BrNO
